US03985885
A. 2-(2-Pyridinyl)benzothiazole
To a solution of polyphosphoric acid ethyl ester (PPE) 360 g in 600 ml of CHCl3 is added o-aminothiophenol 36.9 g, 0.30 mole and picolinic acid 55.5 g, 0.45 mole. The resulting solution is heated at reflux for 1 hour. The solvent is removed in vacuo, and the residue poured onto 1500 cc of ice-water. The pH of the aqueous mixture is adjusted to 10, and it is then extracted three times with 500 cc portions of CHCl3. The extracts are dried (MgSO4); filtered; and concentrated to dryness. Recrystallization from acetonitrile yields 47.4 g of the title A compound in the form of white needles, m.p. 133°-134°.

reactant | o-aminothiophenol | 0.30 mole, 36.9 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | picolinic acid | 0.45 mole, 55.5 g | N1=C(C=CC=C1)C(=O)O | C6H5NO2
solvent | CHCl3 | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Pyridinyl)benzothiazole | N1=C(C=CC=C1)C=1SC2=C(N1)C=CC=C2 | C12H8N2S
